US08735586B2
2-Methyl-3-phenyl-3H-benzoimidazole-4-carboxylic acid methyl ester
The title compound was prepared with the analogous procedure described in example 3 using 2-Bromo-3-nitrobenzoic acid methyl ester and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as viscous oil (40 mg, 30%). 1H NMR (DMSO) δ 2.41 (s, 3 H), 3.08 (s, 3 H), 7.39-7.63 (m, 7 H), 7.96 (br s, 1 H); 13C NMR δ 14.1, 51.8, 117.2, 121.1, 123.0, 124.9, 137.0, 139.3, 139.6, 137.0, 140.2, 155.2, 165.7.

reactant | 2-Bromo-3-nitrobenzoic acid methyl ester | COC(C1=C(C(=CC=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 2-Methyl-3-phenyl-3H-benzoimidazole-4-carboxylic acid methyl ester | 40 mg, 30% | COC(=O)C1=CC=CC=2N=C(N(C21)C2=CC=CC=C2)C | C16H14N2O2
